US08808703B2
Step 2: ((14R,18R)-18-(dodecanoyloxy)-13,21-dioxo-14-palmitamido-3,6,9,20-tetraoxa-16-thia-12-azadotriacontyl)phosphonic acid
To a solution of (14R,18R)-1-(diethoxyphosphoryl)-13-oxo-14-palmitamido-3,6,9-trioxa-16-thia-12-azanonadecane-18,19-diyl didodecanoate (1 eq) in DCM (0.1 M) was added trimethylsilyl bromide (10 eq). The reaction mixture was stirred at 25° C. overnight and concentrated. The crude mixture was purified by reverse phase high performance liquid chromatography (HPLC) with C4 column eluting with a gradient of 40-100% MeCN/10 mM NH4OAc (95:5) in 10 mM NH4OAc (pH 9) to give the title product as a white solid after lyophilizing. 1H NMR (CDCl3): δ 8.09 (br s, 2H), 5.18 (d, 2H), 4.62-4.70 (m, 2H), 4.36 (d, 2H), 4.13 (dd, 2H), 3.40-3.80 (m, 13H), 2.70-3.05 (m, 8H), 2.27-2.32 (m, 6H), 1.54-1.62 (m, 6H), 1.20-1.32 (m, 56H), 0.88 (t, 9H). LRMS [M+H]=1037.7.

reactant | (14R,18R)-1-(diethoxyphosphoryl)-13-oxo-14-palmitamido-3,6,9-trioxa-16-thia-12-azanonadecane-18,19-diyl didodecanoate | 1 eq | C(CCCCCCCCCCC)(=O)O[C@@H](CSC[C@@H](C(NCCOCCOCCOCCP(=O)(OCC)OCC)=O)NC(CCCCCCCCCCCCCCC)=O)COC(CCCCCCCCCCC)=O | C58H113N2O12PS
reactant | trimethylsilyl bromide | 10 eq | C[Si](C)(C)Br | C3H9BrSi
solvent | DCM | 0.1 M | C(Cl)Cl | CH2Cl2
product | ((14R,18R)-18-(dodecanoyloxy)-13,21-dioxo-14-palmitamido-3,6,9,20-tetraoxa-16-thia-12-azadotriacontyl)phosphonic acid | C(CCCCCCCCCCC)(=O)O[C@@H](CSC[C@@H](C(NCCOCCOCCOCCP(O)(O)=O)=O)NC(CCCCCCCCCCCCCCC)=O)COC(CCCCCCCCCCC)=O | C54H105N2O12PS
